US05405851
A solution of N-(9-bromo-1,2-dihydro-1-oxobenzo[f]quinazolin-3-yl)pivalamide (0.15 g, 0.4 mmole) in 0.75N NaOH (7 ml) was stirred and heated to 75° C. under a nitrogen atmosphere for 10.5 hours. The solution was cooled and made slightly acidic with acetic acid to cause precipitation of the product. The precipitate was collected, washed successively with water, methanol and ether, and dried to give 3-amino-9-bromobenzo[f]quinazolin 1(2H)-one as an off-white solid. (0.115 g, 99%) 1H NMR(DMSO-d6 200 MHz) δ: 6.64(br s, 2H, NH2); 7.31(d, J=8.8 Hz, 1H, Ar); 7.57(dd, J=8.5, 1.9 Hz, 1H, Ar); 7.83(d, J=8.6 Hz, 1H, Ar); 8.02(d, J=9.0 Hz, 1H, Ar); 9.83(s, 1H, Ar); 11.28(br s, 1H, NH).

reactant | N-(9-bromo-1,2-dihydro-1-oxobenzo[f]quinazolin-3-yl)pivalamide | 0.4 mmole, 0.15 g | BrC=1C=CC2=C(C=3C(NC(=NC3C=C2)NC(C(C)(C)C)=O)=O)C1 | C17H16BrN3O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | NaOH | 0.75N, 7 ml | [OH-].[Na+]
product | 3-amino-9-bromobenzo[f]quinazolin 1(2H)-one | NC1=NC=2C=CC3=C(C2C(N1)=O)C=C(C=C3)Br | C12H8BrN3O
